US07091372B2
A solution of 2-bromo-phenylacetonitrile (6.62 mL, 51.0 mmol) and methyl-3-methoxyacrylate (5.32 mL, 49.5 mmol) in tetrahydrofuran (10 ml) was added to a suspension of sodium tert-butoxide (5.05 g, 51.0 mmol) in tetrahydrofuran (70 mL) at 0° C. over 10 minutes under a stream of nitrogen. The reaction mixture was warmed to room temperature and after 15 minutes diluted with methyl tert-butyl ether (240 mL). To the mixture was added 0.2 N aqueous citric acid until the aqueous layer had a pH of 2 (80 mL). The organic layer was separated and washed with a saturated aqueous solution of sodium chloride (2×80 mL), dried over anhydrous sodium sulfate, filtered through a pad of Celite and silica (4:1) and concentrated in vacuo to provide 4-(2-bromo-phenyl)-4-cyano-but-3-enoic acid methyl ester as a pale yellow oil (13.8 g, 96%). Major isomer 1H NMR (400 MHz, CDCl3) δ 7.59 (dd, 1H, J=7.6, 1.2), 7.57–719 (m, 3H), 6.71 (t, 1H, J=7.1), 3.71 (s, 3H), 3.61 (d, 2H, J=7.1); 13C NMR (100 MHz , CDCl3) δ 169.7, 144.4, 133.7, 131.4, 131.1, 128.3, 122.5, 118.1, 117.3, 115.3, 52.7, 36.6; IR (ATR, neat) 1737, 1434, 1319, 1199, 1171, 1026, 755 cm−1. Minor isomer 1H NMR (400 MHz, CDCl3) δ 7.61 (dd, 1H, J=7.6, 1.0), 7.57–7.19 (m, 3H), 6.9 (t, 1H, J=7.5), 3.64 (s, 3H), 3.06 (d, 2H, J=7.5).

reactant | 2-bromo-phenylacetonitrile | 51.0 mmol, 6.62 mL | BrC1=C(C=CC=C1)CC#N | C8H6BrN
reactant | methyl-3-methoxyacrylate | 49.5 mmol, 5.32 mL | COC(C=COC)=O | C5H8O3
reactant | sodium tert-butoxide | 51.0 mmol, 5.05 g | CC(C)([O-])C.[Na+]
reactant | citric acid | 0.2 N | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 70 mL | O1CCCC1 | C4H8O
solvent | methyl tert-butyl ether | 240 mL | C(C)(C)(C)OC | C5H12O
product | 4-(2-bromo-phenyl)-4-cyano-but-3-enoic acid methyl ester | 13.8 g, 96% | COC(CC=C(C#N)C1=C(C=CC=C1)Br)=O | C12H10BrNO2
